US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione and 3-(diethylcarbamoyl)-propionic acid with N,N'-dicyclohexylcarbodiimide and 4-pyrrolidino-pyridine as the catalyst in methylene chloride there is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl 3-(diethylcarbamoyl)propionate, m.p. 91°-93° C.

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | 3-(diethylcarbamoyl)-propionic acid | C(C)N(C(=O)CCC(=O)O)CC | C8H15NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidino-pyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl 3-(diethylcarbamoyl)propionate | C(C)N(C(=O)CCC(=O)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)CC | C20H20ClF4N3O5
